US08278331B2
To a suspension of 2-chloro-4-fluorophenyl methyl carbonate (110 g, 0.54 mol) in conc. H2SO4 (50 mL) was slowly added a mixture comprised of conc. H2SO4 (40 mL) and fuming HNO3 (40.8 mL, 0.89 mol). The resultant mixture was stirred for 30 min at 0° C. The reaction mixture was poured into ice water and the precipitated solid was collected by filtration and washed with water to give 2-chloro-4-fluoro-5-nitrophenyl methyl carbonate (120 g, 90% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.45 (d, J=7.2 Hz, 1H), 8.12 (d, J=10.8 Hz, 1H), 3.89 (s, 3H); MS (ESI) m/z: 250.1 (M+H+).

reactant | 2-chloro-4-fluorophenyl methyl carbonate | 0.54 mol, 110 g | C(OC1=C(C=C(C=C1)F)Cl)(OC)=O | C8H6ClFO3
reactant | HNO3 | 0.89 mol, 40.8 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
solvent | H2SO4 | 40 mL | OS(=O)(=O)O | H2O4S
product | 2-chloro-4-fluoro-5-nitrophenyl methyl carbonate | 120 g, 90% yield | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl)(OC)=O | C8H5ClFNO5
